US07361763B2
Step 1: Synthesis of 1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone.
To a stirring solution of aluminum chloride (6.77 g, 50.75 mmol) suspended in anhydrous CH2Cl2 (100 mL) under N2 was added 5-bromo-1H-pyrrolo[2,3-b]pyridine(2.00 g, 10.15 mmol). The reaction solution was stirred for 1 hour at ambient temperature whereupon acetyl chloride (3.61 mL, 50.75 mmol) was added dropwise and the resulting solution was stirred for 5 more hours. The reaction was cooled to 0° C. in an ice bath and quenched carefully by addition of MeOH until the solution became clear. The reaction was concentrated under vacuum. H2O was added and 1 N NaOH was added dropwise until the pH=4. The product was extracted into ethyl acetate and the organic layer was washed with a saturated solution of sodium potassium tartrate to remove any remaining aluminum salts. The organic layer was dried over Na2SO4 and concentrated under vacuum. The material was redissolved in ethyl acetate and filtered through a bed of silica gel. The filtrate was concentrated to afford the title compound as an orange solid (2.25 g, 93% yield). 1H NMR (500 MHz, d6-DMSO) δ 12.70 (br s, 1H), 8.56 (d, J=2.5 Hz, 1H), 8.55 (s, 1H), 8.40 (d, J=2.5 Hz, 1H), 2.46 (s, 3H). MS: m/z 238.9/240.9 (M+H+).

reactant | aluminum chloride | 50.75 mmol, 6.77 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 10.15 mmol, 2.00 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | acetyl chloride | 50.75 mmol, 3.61 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | 2.25 g, 93% yield | BrC=1C=C2C(=NC1)NC=C2C(C)=O | C9H7BrN2O
